US09216980B2
Step 1: 2-(4-Bromophenyl)pyridine
1,4-Dibromobenzene (5.90 g, 25.0 mmol) was dissolved in anhydrous diethyl ether (40 mL) and flushed with argon before the solution was cooled to −78° C. and n-butyl lithium (2.5M in hexanes, 10.2 mL, 25.6 mmol) was added dropwise at a rate that maintained the temperature below −70° C. The reaction mixture was stirred at this temperature for 30 minutes then 2-fluoropyridine (1.72 mL, 20.0 mmol) was added dropwise and stirring continued at −78° C. for 1 h then the reaction mixture was allowed to warm to room temperature and stirred for 1 h. The reaction mixture was poured onto water (50 mL) and extracted with diethyl ether (3×50 mL). The combined organic layers were washed with 5% HCl (3×200 mL) then the pH of the aqueous phase was adjusted to 10 by the addition of potassium hydroxide and the aqueous phase was extracted with diethyl ether (3×200 mL). The combined organic phase was dried over sodium sulfate, filtered and evaporated to afford the title compound (2.7 g, 58%). 1H NMR (CDCl3, 300 MHz): 8.71-8.66 (m, 1H), 7.91-7.85 (m, 2H), 7.79-7.67 (m, 2H), 7.64-7.57 (m, 2H), 7.28-7.22 (m, 1H).

reactant | 1,4-Dibromobenzene | 25.0 mmol, 5.90 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyl lithium | 25.6 mmol, 2.5M, 10.2 mL | C(CCC)[Li]
reactant | 2-fluoropyridine | 20.0 mmol, 1.72 mL | FC1=NC=CC=C1 | C5H4FN
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 2-(4-Bromophenyl)pyridine | 2.7 g, 58% | BrC1=CC=C(C=C1)C1=NC=CC=C1 | C11H8BrN
